* Z:\mnt\design.r\spice\examples\1673.asc
R1 +V N001 .1
Q2 N007 N005 CHARGE 0 2N3904
R2 CHARGE 0 2K
R3 N003 +V 200
R4 N007 N001 200
Q1 N006 N004 DISCHARGE 0 2N3904
R5 DISCHARGE 0 2K
R6 N002 N001 200
R7 N006 +V 200
I1 0 N001 SINE(0 1 1m)
V2 +V 0 12
XU1 N007 N003 N005 +V 0 LT1672
XU2 N006 N002 N004 +V 0 LT1672
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1K
* Battery Current Monitor
.lib LTC2.LIB
.backanno
.end
